US06211215B1
In substantially the same manner as in Reference Example 31, 3-benzyloxybenzamide was allowed to react with 1,3-dichloroacetone to give 2-(3-benzyloxyphenyl)-4-chloromethyloxazole. The yield was 26%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 49-50° C.

reactant | 3-benzyloxybenzamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)N)C=CC1 | C14H13NO2
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 2-(3-benzyloxyphenyl)-4-chloromethyloxazole | yield was 26% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1OC=C(N1)CCl | C17H14ClNO2
